US04468353
Ethoxymethylene acetylacetone
253 g (2.5 moles) of acetylacetone, 1,110 g (7.5 moles) of orthformic acid triethyl ester and 8 g of acetic anhydride are heated to ebullition in a flask with vigorous stirring. During the reaction, about 23 g of acetic acid is added and the ethanol formed is distilled off. After 2 to 3 hours the reaction is completed. The unreacted orthoformic acid triethyl ester is distilled out at reduced pressure (5 to 1 Torr) through the top of the column and fed back to the next batch. Following this, 355 g of ethoxymethylene acetylacetone is evaporated, separated from the residue through a simple distillation bridge at 0.1 to 0.3 Torr. The yield, referred to acetylacetone, was 91% of theory.

reactant | acetylacetone | 2.5 moles, 253 g | C(C)(=O)CC(C)=O | C5H8O2
reactant | acetic anhydride | 8 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetic acid | about 23 g | C(C)(=O)O | C2H4O2
solvent | ethanol | C(C)O | C2H6O
product | Ethoxymethylene acetylacetone | C(C)OC=CC(=O)CC(C)=O | C8H12O3
